US05889050
(R,R)N-Acetyl-3,3'-dithiobis(2-aminopropionic acid)
L-cysteine (2.42 g, 20 mmol) and N-acetyl-L-cysteine (3.26 g, 20 mmol) were dissolved in 25 mL of water. The pH of this solution was 2.6 according to lithmus paper. Aqueous hydrogen peroxide (30%, 2.3 mL, 21 mmol) was added, and the reaction mixture was allowed to stand at room temperature overnight. A white precipitate stand at room temperature overnight. A white precipitate was filtered off (1.26 g). This material was shown to be L-cystine by comparison of spectral data with an authentic sample. The yellowish filtrate, containing the desired compound and the two symmetrical compounds (R,R)-N,N'-diacetylcystine and (minor amounts of) cystine was separated on a preparative HPLC using a Dynamax C1 8-column (8 μm, 60 Å, 21.4×250 mm) with a Dynamax C1 8-guard column (8 μm, 21.4×50 mm) and with Gilson dual solvent delivery system (305 pump, pumphead 100 SC acting as a solvent delivery pump, pumphead 5 SC acting as a sample injector, 806 manometric module, 811B dynamic mixer, 115 UV detector, 201 fraction collector, 201-202 fraction controller). The solvents used were A=10 mM HOAc/H2O and B=MeOH, with a 95:5 ratio of A:B. The solvent flow was 10 mL/min and the separation was recorded at 230 nm. After detection of each fraction on TLC (Merck 16483, plastic sheets silica gel 60 WF 254s, eluent nBuOH/HOAc/H2O 1:1:1, I2 as visualization agent), the fractions with acceptable purity were pooled and evaporated to give an oily residue. This residue was dissolved in acetone (pa) and the solution was evaporated to give the title product as white crystals.

reactant | L-cysteine | 20 mmol, 2.42 g | N[C@@H](CS)C(=O)O | C3H7NO2S
reactant | N-acetyl-L-cysteine | 20 mmol, 3.26 g | C(C)(=O)N[C@@H](CS)C(=O)O | C5H9NO3S
reactant | hydrogen peroxide | 21 mmol, 2.3 mL | OO | H2O2
solvent | water | 25 mL | O | H2O
solvent | acetone | CC(=O)C | C3H6O
product | (R,R)N-Acetyl-3,3'-dithiobis(2-aminopropionic acid) | Yield: 10% | C(C)(=O)N[C@H](C(=O)O)CSSC[C@@H](C(=O)O)N | C8H14N2O5S2
